** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/testbenches/xschem/tb_pmos_diode_dc.sch
**.subckt tb_pmos_diode_dc
VDD net1 GND 3.3
XM6 net2 net2 net1 net2 sg13_hv_pmos w=1u l=10u ng=1 m=1 mm_ok=1
VD net2 GND 3.3
**** begin user architecture code


.include ../../../netlist/pex/inverter_magic_pex_3.spice
.param temp=27
.options savecurrents klu method=gear reltol=1e-3 abstol=1e-15 gmin=1e-15
.control

save all

* Operating Point Analysis
op
remzerovec
write tb_pmos_diode_dc.raw
set appendwrite

* DC Sweep
dc VD 0 6.6 0.01
remzerovec
write tb_pmos_diode_dc.raw
set appendwrite

* Plotting
plot -i(VDD)

* Measurement
*meas dc Vgsp_at_Vcm when vout=Vcm
*print Vgsp_at_Vcm

* Write Data
*unset appendwrite
*set wr_vecnames
*set wr_singlescale
*wrdata ../plot_simulations/data/tb_pmos_diode_dc.txt v(vin) v(vout)

*quit
.endc



.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerRES.lib res_typ
.lib cornerDIO.lib dio_tt

**** end user architecture code
**.ends
.GLOBAL GND
.end
